US08278335B2
Step 3. 2-(6-Bromopyridin-2-yl)propane-1,2-diol
A solution of 2-bromo-6-isopropenylpyridine (0.510 g, 2.57 mmol) in a mixture of acetone (1 ml) and water (2 ml) was charged with N-methylmorpholine N-oxide (0.317 g, 2.70 mmol) and osmium tetroxide (0.257 ml, 0.013 mmol) with vigorous stirring. After 16 hours, dithionite (0.05 g) and water (1.5 mL) were added. After an additional 15 minutes, the reaction mixture was filtered though a pad of Celite. The filter cake was rinsed with acetone (3×1.5 mL) and filtrate was concentrated by rotary evaporation. The remaining liquid was diluted with 9:1 chloroform:isopropanol (4 mL) and aqueous hydrogen chloride (2 M) was added until the aqueous layer was acidic. The layers were separated, and the acidic (pH=1) aqueous layer was extracted with 9:1 chloroform:isopropanol (2×4 mL). The combined organic layers were washed with 3:1 water:brine (2.5 mL), saturated aqueous sodium bicarbonate (4 mL), and brine (4 mL), dried over sodium sulfate, filtered, and concentrated to afford the title compound. LRMS (APCI) calc'd for C8H11BrNO2 [M+H]+: 232, Found: 232.

reactant | 2-bromo-6-isopropenylpyridine | 2.57 mmol, 0.510 g | BrC1=NC(=CC=C1)C(=C)C | C8H8BrN
reactant | N-methylmorpholine N-oxide | 2.70 mmol, 0.317 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dithionite | 0.05 g | S(=O)([O-])S(=O)[O-]
reactant | water | 2 ml | O | H2O
reactant | water | 1.5 mL | O | H2O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | 0.013 mmol, 0.257 ml | [Os](=O)(=O)(=O)=O
product | 2-(6-Bromopyridin-2-yl)propane-1,2-diol | BrC1=CC=CC(=N1)C(CO)(C)O | C8H10BrNO2
